US07253281B2
b) (4R,10aR)-7-Cyano-4-methyl-3,4,10,10a-tetrahydro-1H-pyrazino[1,2-a]indole-2-carboxylic acid tert-butyl ester
(4R,10aR)-7-Bromo-4-methyl-3,4,10,10a-tetrahydro-1H-pyrazino[1,2-a]indole-2-carboxylic acid tert-butyl ester (0.1 g) was dissolved in dioxane (2 mL) and copper(I)cyanide (0.1 g), tris-(dibenzylideneacetone)dipalladium chloroform complex (12 mg), 1,1′-bis(diphenylphosphino)ferrocene (24 mg) and tetraethylammonium cyanide (43 mg) were added. The mixture was heated to reflux for 18 h, cooled, filtered and the filter cake was washed with ethyl acetate. Saturated sodium bicarbonate solution (30 mL) was added to the filtrate, the phases were separated, the water phase was extracted with ethyl acetate (2-×20 mL) and the organic phases washed twice with saturated bicarbonate solution. Organic phases were pooled, dried with MgSO4 and the solvent removed in vacuo. Chromatography on silica gel (n-hexane/ethyl acetate 6:1) yielded the title compound as light yellow wax (34 mg; 40%). ISP-MS: m/e=314.2 (M+H+).

reactant | (4R,10aR)-7-Bromo-4-methyl-3,4,10,10a-tetrahydro-1H-pyrazino[1,2-a]indole-2-carboxylic acid tert-butyl ester | 0.1 g | C(C)(C)(C)OC(=O)N1C[C@@H]2N(C=3C=C(C=CC3C2)Br)[C@@H](C1)C | C17H23BrN2O2
reactant | copper(I)cyanide | 0.1 g | [Cu]C#N
solvent | dioxane | 2 mL | O1CCOCC1 | C4H8O2
catalyst | tetraethylammonium cyanide | 43 mg | [C-]#N.C(C)[N+](CC)(CC)CC
catalyst | 1,1′-bis(diphenylphosphino)ferrocene | 24 mg | C1(=CC=CC=C1)P([C-]1C=CC=C1)C1=CC=CC=C1.[C-]1(C=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.[Fe+2]
product | (4R,10aR)-7-Cyano-4-methyl-3,4,10,10a-tetrahydro-1H-pyrazino[1,2-a]indole-2-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1C[C@@H]2N(C=3C=C(C=CC3C2)C#N)[C@@H](C1)C | C18H23N3O2
